US05686434
4-Methoxy-3-(5-phenylpentyloxy)benzaldehyde Oxime
A mixture of 25.0 g (0.164 mol) of isovanillin, 26.9 g (0.164 mol) of 5-phenyl-1-pentanol, 64.5 g (0.246 mol) of triphenylphosphine and 250 ml of THF was treated dropwise with 42.8 g (0.246 mol) of diethyl azodicarboxylate. The mixture was heated to about 90° C. for about 6 h and then stirred overnight at RT. The solvent was evaporated and the residue was diluted with 500 ml of EtOAc, washed with water (1×400 ml), 1N NaOH solution (2×400 ml), brine (1×400 ml), dried (MgSO4), and evaporated to 119 g of a brown oil. Purification by flash chromatography (750 g of silica gel) using an EtOAc-hexane (3:7) eluant afforded 29.8 g (61%) of the title compound as an oil. 1H NMR (CDCl3): δ 1.42-1.92 (6H, m), 2.61 (2H, t, J=7), 3.91 (3H, s), 4.03 (2H, t, d=7), 6.91 (1H, d, J=8), 7.10-7.40 (m, 7H), 9.77 (s, 1H)

reactant | isovanillin | 0.164 mol, 25.0 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | 5-phenyl-1-pentanol | 0.164 mol, 26.9 g | C1(=CC=CC=C1)CCCCCO | C11H16O
reactant | triphenylphosphine | 0.246 mol, 64.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.246 mol, 42.8 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | 250 ml | C1CCOC1 | C4H8O
product | 4-Methoxy-3-(5-phenylpentyloxy)benzaldehyde Oxime | 29.8 g, 61% | COC1=C(C=C(C=NO)C=C1)OCCCCCC1=CC=CC=C1 | C19H23NO3
